US05952331
4-(4-fluoronaphth-1-yl)-6-isopropyl-2-methanesulfonylpyrimidine (0.100 g, 0.29 mmol) was added to a solution of ethylamine (0.33 mL, 5.8 mmol) in ethanol (1 mL). The reaction vessel was placed in a sonication bath for 6 hours at a bath temperature of 45° C. The ethanol was removed in vacuo leaving a viscous oil. The oil was crystallized from ethanol and water to give 2-ethylamino-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine (49%), m.p. 77-78° C.

reactant | 4-(4-fluoronaphth-1-yl)-6-isopropyl-2-methanesulfonylpyrimidine | 0.29 mmol, 0.100 g | FC1=CC=C(C2=CC=CC=C12)C1=NC(=NC(=C1)C(C)C)S(=O)(=O)C | C18H17FN2O2S
reactant | ethylamine | 5.8 mmol, 0.33 mL | C(C)N | C2H7N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-ethylamino-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine | 49% | C(C)NC1=NC(=CC(=N1)C1=CC=C(C2=CC=CC=C12)F)C(C)C | C19H20FN3
